US05273982
β-Alanine benzyl ester was reacted in methylene chloride/water sodium bicarbonate with p-amidino-benzoyl chloride and subsequently with di-t-butyl dicarbonate and sodium carbonate to give N-[p-[N-(t-butoxycarbonyl)amidino]benzoyl]-β-alanine benzyl ester, m.p. 127°-128° C.

reactant | β-Alanine benzyl ester | C(C1=CC=CC=C1)OC(CCN)=O | C10H13NO2
reactant | p-amidino-benzoyl chloride | C(N)(=N)C1=CC=C(C(=O)Cl)C=C1 | C8H7ClN2O
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride water sodium bicarbonate | C(Cl)Cl.C([O-])(O)=O.[Na+].O
product | N-[p-[N-(t-butoxycarbonyl)amidino]benzoyl]-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(CCNC(C1=CC=C(C=C1)C(NC(=O)OC(C)(C)C)=N)=O)=O | C23H27N3O5
